US09422331B2
A rt solution of tert-butyl methyl((S)-1-((2S,3S)-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-5-(quinolin-4-ylmethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate (56 mg, 87.8 μmol) in 4 M HCl in dioxane (439 μl) was stirred for 1 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((2S,3S)-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-5-(quinolin-4-ylmethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (43.2 mg, 75.2 μmol, 85.7% yield) as a white solid. MS m/z 538 (MH)+.

reactant | tert-butyl methyl((S)-1-((2S,3S)-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-5-(quinolin-4-ylmethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate | 87.8 μmol, 56 mg | CN(C(OC(C)(C)C)=O)[C@H](C(=O)N[C@@H]1C(N(C2=C(N([C@H]1C)C(CS(=O)(=O)C)=O)C=CC=C2)CC2=CC=NC1=CC=CC=C21)=O)C | C32H39N5O7S
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 439 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((2S,3S)-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-5-(quinolin-4-ylmethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 75.2 μmol, 43.2 mg, 85.7% yield | Cl.C[C@H]1[C@@H](C(N(C2=C(N1C(CS(=O)(=O)C)=O)C=CC=C2)CC2=CC=NC1=CC=CC=C21)=O)NC([C@H](C)NC)=O | InChI=1S/C27H31N5O5S.ClH/c1-17(28-3)26(34)30-25-18(2)32(24(33)16-38(4,36)37)23-12-8-7-11-22(23)31(27(25)35)15-19-13-14-29-21-10-6-5-9-20(19)21;/h5-14,17-18,25,28H,15-16H2,1-4H3,(H,30,34);1H/t17-,18-,25-;/m0./s1
